Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Gadolinium-Containing Agents / 
Corticosteroids (Glucocorticoids)
 
Attending: ___.
 
Chief Complaint:
painful left foot
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o male w/ history of chronic venous stasis ulcers left 
medial malleolus (s/p RFA of saphenous vein), eczema, central 
serous chorioretinopathy s/p steroids who developed cellulitis 
of his
left ankle ___ which has continued to worsen. 

For context: Patient reports that he has had this ulcer for 
___ years. It was painful all the time, and he was followed by 
vascular surgery and eventually had an RFA to the left saphenous 
vein in ___. After that, the pain subsided and the ulcer 
closed. However, ___ years ago, he started having breakouts of 
eczema, and when eczema affected the medial malleolus, the ulcer 
again opened up and began to hurt again. Patient had tried to 
keep area clean by himself. Was actively trying to establish 
care with vascular again and had imaging done, but did not meet 
with a vascular surgeon to follow up (he saw vascular NP, but 
not the surgeon at his appt).  

Then on ___, patient wok up nauseous, and that night he 
experienced extreme pain. The pain felt like trauma to the leg 
and the next morning he had redness all the way to the knee. He 
saw Dr. ___ on ___ who noted the patient had 
somewhat of a contracture of the foot at that time. Patient 
states this probably started over the last weekend. He was 
started on Doxy then. Has taken ___ pills of that and thought he 
saw some improvement but contracture persists and feels like he 
is walking on his toes on left foot. Saw Dr. ___ Dr. 
___ and he was sent to the ED out of concern for 
crepitus.  He denies any current fever or chills, and notes mild 
improvement in pain, but has been persistently nauseated 
w/decreased PO intake. 

In the ED, initial vitals were:  
99.3 63 121/69 19 100% RA 
In the ED exam was notable for:
- Left malleolus is swollen, tender to palpation. There is no
subcutaneous emphysema noted.
- Labs notable for: 
6.5>13.1/41.1<284
INR 1.2
CRP 8.8
___
Lactate 2.0
 
- Imaging was notable for:  
Left LENIs: 
No evidence of deep venous thrombosis in the left lower 
extremity veins.

XR
No evidence of periosteal reaction or foci of subcutaneous gas 
in the 
visualized left knee, tibia, fibula, and foot. 

- Patient was given:  
___ 21:03 IV Ampicillin-Sulbactam  ___ 
Started  
___ 22:19 IV Ampicillin-Sulbactam 3 g ___ 
Stopped (1h ___  
___ 23:08 IV Vancomycin (1000 mg ordered) ___ 
___ Started  

On the floor, patient relays the above information. He is also 
short of breath with wheezing. Denies current fevers or chills 
and is non toxic appearing.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) 10 point ROS reviewed and negative unless stated above in 
HPI  

 
Past Medical History:
ASTHMA
ECZEMA
SAPHENOUS VEIN CLOSURE (RFA OF SAPHENOUS IN ___
Central serous chorioretinopathy (s/p steroids)
Rheumatic fever, pericarditis 
lipoma
Low back pain
 
Social History:
___
Family History:
Younger brother: UC and eczema
Brother: serious ear infection 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITAL SIGNS: 98.1 PO 115 / 82 74 18 98 RA  
GENERAL: In mild distress lying in bed 
HEENT: NCAT, PERRLA, EOMI, MMM. 
NECK:  supple, no cervical or supraclavicular LAD
CARDIAC:  S1/S2 with regular rate and rhythm, no murmurs, rubs, 
or gallops
LUNGS: Diffuse musical inspiratory and expiratory wheezes 
throughout upper and mid lung fields, with softer wheezes and 
decreased air entry in the lower lung fields.
ABDOMEN: Soft, non-distened, non-tender, BS+
EXTREMITIES: Left with hyperpigmentation surrounding a central 
ulcer over the medial malleolus. Ulcer is hypopigemented, 
without any excoriation. Moderate tenderness to palpation around 
the area with no subcutaneous emphysema appreciated, although 
skin does appear paper thin. Edema appreciated of left ankle. 
Decreased range of plantarflexion to 30 degrees, and dorsal 
flexion was significantly reduced and patient could barely 
dorsiflex beyond ___ degrees. Erythema difficult to discern, 
but likely to mid calf. 
NEUROLOGIC: A&Ox 3
SKIN: as above

DISCHARGE PHYSICAL EXAM:
VITAL SIGNS: 97.5 PO 116 / 76 61 18 96 Ra 
GENERAL: Comfortable, lying in bed
HEENT: NCAT, PERRLA, EOMI, MMM. 
NECK:  supple, no cervical or supraclavicular LAD
CARDIAC:  S1/S2 with regular rate and rhythm, no murmurs, rubs, 
or gallops
LUNGS: Clear to auscultation bilaterally
ABDOMEN: Soft, non-distened, non-tender, BS+
EXTREMITIES: Left with hyperpigmentation surrounding a central 
ulcer over the medial malleolus. Ulcer is hypopigemented, 
without any excoriation. Moderate tenderness to palpation around 
the area with no subcutaneous emphysema appreciated.  Intact 
active and passive range of motion in the ankle.  No erythema or 
warmth.  Mild ankle edema
NEUROLOGIC: A&Ox 3
SKIN: as above
 
Pertinent Results:
ADMISSION LABS:
___ 07:45PM   LACTATE-2.0
___ 07:42PM   GLUCOSE-87 UREA N-12 CREAT-1.0 SODIUM-138 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-26 ANION GAP-16
___ 07:42PM   estGFR-Using this
___ 07:42PM   CK(CPK)-119
___ 07:42PM   CRP-8.8*
___ 07:42PM   WBC-6.5 RBC-4.67 HGB-13.1* HCT-41.1 MCV-88 
MCH-28.1 MCHC-31.9* RDW-12.5 RDWSD-40.0
___ 07:42PM   NEUTS-44.6 ___ MONOS-7.7 EOS-9.7* 
BASOS-1.1* IM ___ AbsNeut-2.88 AbsLymp-2.37 AbsMono-0.50 
AbsEos-0.63* AbsBaso-0.07
___ 07:42PM   PLT COUNT-284
___ 07:42PM   ___ PTT-32.7 ___

DISCHARGE LABS:
___ 11:20AM BLOOD WBC-5.3 RBC-4.59* Hgb-13.0* Hct-40.2 
MCV-88 MCH-28.3 MCHC-32.3 RDW-12.7 RDWSD-40.8 Plt ___
___ 11:20AM BLOOD Plt ___
___ 11:20AM BLOOD Glucose-96 UreaN-14 Creat-0.9 Na-138 
K-4.7 Cl-102 HCO3-26 AnGap-15
___ 11:20AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.9
___ 11:55AM BLOOD Lactate-1.2

IMAGING:
LENIS:

IMPRESSION: 
 
No evidence of deep venous thrombosis in the left lower 
extremity veins.

LLE XR:
IMPRESSION: 
 
No evidence of periosteal reaction or foci of subcutaneous gas 
in the
visualized left knee, tibia, fibula, and foot.
 
LLE CT:
IMPRESSION: 
 
No fluid collection to suggest abscess or soft tissue gas.  Soft 
tissue edema
and skin thickening and venous varicosities along the medial 
malleolus.

LLE MRI:
IMPRESSION: 
 
1.  Marked edema within the soft tissues along medial aspect of 
the ankle
without  evidence of osteomyelitis.
2.  Mild tendinosis of the Achilles tendon at its insertion in 
the calcaneus.

 
Brief Hospital Course:
# Left lower extremity cellulitis
# Achilles tendinosis
# Chronic venous stasis

___ with chronic left stasis ulceration, recurrent cellulitis, 
who presented with worsening lower extremity swelling and pain 
in the setting of PO doxycycline therapy for LLE SSTI. Given PCP 
concern for crepitus on exam, CT scan was obtained which was 
notable for soft tissue edema but no fluid collection to suggest 
abscess or soft tissue gas. He then underwent MRI which 
demonstrated Achilles tendonosis. He was treated overnight with 
IV Vanc and unasyn with resolution of his remaining erythema.  
He transitioned back to PO doxycycline to complete an additional 
5 days as his cellulitis improved on doxycycline and his 
physical exam and pain upon discharge appeared most consistent 
with Achilles tendinosis rather than acute infection. He was 
also evaluated by ___ who recommended crutches, outpatient ___ and 
compression stockings. Patient discharged with ibuprofen as 
needed for pain outpatient and encouraged to participate in 
outpatient physical therapy. 

TRANSITIONAL ISSUES: 
====================
-New Medications: doxycycline 100mg BID for 5 days (complete 
___ ibuprofen 600 mg Q8H:PRN
- recommend further outpatient management of tendonosis 
including physical therapy and consideration of orthopedic 
referral. 
- please excuse from work for 1 week from date of discharge 
until ___ minutes on discharge activities
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone Cream 2.5% 1 Appl TP TID:PRN eczema 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*10 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Q8H:PRN Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Hydrocortisone Cream 2.5% 1 Appl TP TID:PRN eczema  
5.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
6.Outpatient Physical Therapy
7.Crutches 
8.Compression stockings

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left lower extremity cellulitis
Achilles tendonosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted to the hospital for further 
management of your left lower extremity pain, redness, and 
swelling. You were treated with IV antibiotics to treat possible 
infection. You also had multiple images taken of your leg. These 
images did NOT reveal any serious deep infection but your MRI 
did show chronic damage of the Achilles tendon. This condition 
is known as tendonosis. 

Prior to discharge you were transitioned back to doxycycline to 
complete treatment for a skin infection (cellulitis). For 
further management of your tendonosis, you were evaluated by our 
physical therapist who recommended outpatient physical therapy 
with crutches until your pain improves. You will likely benefit 
from continuing outpatient physical therapy. Should your 
symptoms persist, referral to an orthopedist may be appropriate. 
Please continue to follow with your primary care provider 
regarding this issue. 

We wish you the best.

Sincerely,
Your ___ team
 
Followup Instructions:
___